US08053581B2
Step 4: Preparation of 5-cyclohexylmethyl-4-(4-methoxy-phenyl)-thiazol-2-ylamine
A procedure similar to step 5 of Example 6 was used. 2-bromo-3-cyclohexyl-1-(4-methoxy-phenyl)-propan-1-one prepared in the step 3, thiourea and anhydrous sodium acetate were used as starting materials, refluxed for 3 hours, followed by post-treatment to give a crude product, which was purified under a reduced pressure by silica gel column chromatography eluted with petroleum ether and ethyl acetate at a ratio of 3:1 (V:V) to obtain a product as a white solid in a yield of 79.8%, mp: 118-119 └. 1H-NMR (CDCl3, 400 MHz) δ: 0.80˜0.92 (2H, m), 1.05˜1.25 (3H, m), 1.40˜1.50 (1H, m, CH), 1.60˜1.80 (5H, m), 2.59 (2H, d, J=7.04 Hz, CHCH2Ar), 3.83 (3H, s, OCH3), 5.55 (2H, br, NH2), 6.93 (2H, d, J=6.72 Hz, ArH), 7.44 (2H, d, J=6.72 Hz, ArH); EI-MS m/e (%): 302.2 (M+, 59), 219.1 (100), 177.1 (44); HREI-MS Calcd. for C17H22N2OS: 302.1453. found: 302.1450. Anal. Calcd. for C17H22N2OS: C, 67.51; H, 7.33; N, 9.26. found: C, 67.41; H, 7.47; N, 9.24.

reactant | 2-bromo-3-cyclohexyl-1-(4-methoxy-phenyl)-propan-1-one | BrC(C(=O)C1=CC=C(C=C1)OC)CC1CCCCC1 | C16H21BrO2
reactant | thiourea | NC(=S)N | CH4N2S
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 5-cyclohexylmethyl-4-(4-methoxy-phenyl)-thiazol-2-ylamine | yield of 79.8% | C1(CCCCC1)CC1=C(N=C(S1)N)C1=CC=C(C=C1)OC | C17H22N2OS
